US06359138B1
To a solution of (RS)-1-[5-methoxy-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-2-ylmethyl]-4-(4-methyl-benzyl)-piperidin-4-ol (300 mg, 0.576 mmol) in toluene (15 ml) was added sodium bis(2-methoxy-ethoxy) aluminium hydride (3.5 M in THF) (0.66 ml, 2.31 mmol), and the mixture refluxed 18 hr. After cooling, 2N NaOH was added to pH 14, the mixture was extracted with EtOAc (3x 25ml) and the combined extracts washed with satd. NaCl (25 ml), dried with (Na2SO4) then filtered and evaporated. The residue was chromatographed over SiO2 (Merck 230-400 mesh) eluting with EtOAc-cyclohexane-Et3N (9:10:1) to afford (RS)-1-(5-methoxy-2,3-dihydro-1H-indol-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol as a viscous yellow oil (158.4 mg, 0.433 mmol, 75%), MS: m/e=367.3 (M+H+).

reactant | (RS)-1-[5-methoxy-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-2-ylmethyl]-4-(4-methyl-benzyl)-piperidin-4-ol | 0.576 mmol, 300 mg | COC=1C=C2CC(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)CN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C30H36N2O4S
reactant | sodium bis(2-methoxy-ethoxy) aluminium hydride | 2.31 mmol, 3.5 M, 0.66 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-1-(5-methoxy-2,3-dihydro-1H-indol-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol | 0.433 mmol, 158.4 mg, 75% | COC=1C=C2CC(NC2=CC1)CN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C23H30N2O2
